US07456169B2
2-bromo-4-{[2-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy]methyl}-1,3-thiazole
The title compound was prepared by substituting Example 652A for 2-(4-methylthiazol-5-yl)-ethanol and 2-methoxy-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenol for 4-bromo-2-methoxyphenol, respectively, in Example 630A. MS (ESI) m/e 426 (M+H)+; 1H NMR (300 MHz, DMSO-d.6 □ 7.77 (s, 1H), 7.25 (dd, J=8.1, 1.4 Hz, 1H), 7.15 (d, J=1.4 Hz, 1H), 7.09 (d, J=8.1 Hz, 1H), 5.15 (s, 2H), 3.77 (s, 3H), 1.28 (s, 12H).

reactant | 2-(4-methylthiazol-5-yl)-ethanol | CC=1N=CSC1CCO | C6H9NOS
reactant | 2-methoxy-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenol | COC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)O | C13H19BO4
reactant | 4-bromo-2-methoxyphenol | BrC1=CC(=C(C=C1)O)OC | C7H7BrO2
product | 2-bromo-4-{[2-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy]methyl}-1,3-thiazole | BrC=1SC=C(N1)COC1=C(C=C(C=C1)B1OC(C(O1)(C)C)(C)C)OC | C17H21BBrNO4S
